US07902367B2
Step 13a) N-[1-(tert-Butoxycarbonyl)piperidin-3-yl]-2-[2-(4-chlorophenyl)-4-methylthiazol-5-yl]acetamide
Using 2-[2-(4-chlorophenyl)-4-methylthiazol-5-yl]acetic acid (1.60 g, 5.99 mmol) and 1-(tert-butoxycarbonyl)-3-aminopiperidine (1.20 g, 5.99 mmol), the same procedure was followed as in Step 1a of Example 1 to give 1.59 g (59%) of the desired compound as a colorless powder.

reactant | 2-[2-(4-chlorophenyl)-4-methylthiazol-5-yl]acetic acid | 5.99 mmol, 1.60 g | ClC1=CC=C(C=C1)C=1SC(=C(N1)C)CC(=O)O | C12H10ClNO2S
reactant | 1-(tert-butoxycarbonyl)-3-aminopiperidine | 5.99 mmol, 1.20 g | C(C)(C)(C)OC(=O)N1CC(CCC1)N | C10H20N2O2
product | N-[1-(tert-Butoxycarbonyl)piperidin-3-yl]-2-[2-(4-chlorophenyl)-4-methylthiazol-5-yl]acetamide | 1.59 g, 59% | C(C)(C)(C)OC(=O)N1CC(CCC1)NC(CC1=C(N=C(S1)C1=CC=C(C=C1)Cl)C)=O | C22H28ClN3O3S
